Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
?embolic stroke, & multiple aneurysns on CTA.
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ year old female with PMH significant for AFib (on Coumadin),
TIA, aneurysm s/p coil embolization, directly admitted from
___ to ___ for further investigation of  ?embolic 
stroke,
new aneurysms on CTA. 

She presented to ___ following ___ days of left-sided
facial droop.  On ___, the patient reports a fall with injury 
to
her hip, precipitated by lightheadedness holding her BP meds in
preparation for planned dental procedure that day. She denies 
LOC
or headstrike.  The following day, she underwent extraction of a
left upper canine tooth and placement with an implant for which
she had been holding her Coumadin for the 3 days prior to this
procedure.  

Shortly after her tooth extraction, she says that her boyfriend
noticed left sided facial drooping - but she attributed this to
to the recent dental procedure and the associated swelling of 
the
left face. 
 
On ___, the patient reports a second fall - this time in the
shower, and headstrike at the back of her head.  She again 
denies
loss of consciousness.  
 
Upon presentation to ___, the patient reported CC of
ongoing facial droop and some new limping since her recent 
falls.
Her workup included a CTA that revealed ?embolic stroke, and
newly identified aneurysms. She was transferred to ___ for
further evaluation and management. 
 
Past Medical History:
afib on Coumadin 
fibroids s/p partial hysterectomy 
HTN 
s/p R ICA stent 
s/p ?L ICA coil
 
Social History:
___
Family History:
No family history of aneurysm 
 
Physical Exam:
On arrival:
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2 to 1mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

On Discharge:
___: A&Ox3. PERRL 3-2 mm bilat, L facial droop, Tongue midline, 
+ Left drift. ___ strength throughout except Left ___ 
4+/5. 

 
Pertinent Results:
___ IMAGING: 
___ NCHCT Findings: 
Comparison with prior CT head ___, prior MRI brain
___. There is artifact from aneurysm coils near the
right optic canal and at the left ICA termination. There is
reduced attenuation of right caudate nucleus head, right 
putamen,
right internal capsule anterior limb, right insular cortex and
also right temporal pole consistent with an acute right MCA
territory infarct. No hemorrhage. The right lateral ventricle
partially effaced. No midline shift however. No definite mass No
abnormality of CSF spaces or ventricles shown. Gray/white matter
differentiation elsewhere maintained. 
Paranasal sinuses, petromastoids, globes, orbits and skull are
unremarkable.
 
Conclusion: 
1. Acute infarct of the right basal ganglia, insular cortex and
temporal lobe without hemorrhage or significant midline shift.
2. Artifact from left and right skull base level metallic
aneurysm coils. 
2. No acute hemorrhage, no mass, or fracture.

CTA ___: Conclusion: 
1. Limited study for the reasons outlined above.
2. Complex arterial abnormality of the tortuous right internal
carotid artery just below skull base, possibly involving a
tubular PTFE graft. Possibly localized dehiscence and
pseudoaneurysm formation reaching 10 x 9 mm, differential
includes chronic arterial dissection.
3. Aneurysm coils generating artifact related to the left ICA
termination in the right carotid ophthalmic origin region.
4. 2 right sided MCA saccular aneurysms of 5, 3 mm.
5. Infundibular dilatation of the left posterior communicating
artery origin from ICA.
6. No major intracranial arterial occlusion. However, symmetric
diffuse ICA narrowing at the skull base level in the petrous
cavernous segments.
7. No other significant neck arterial abnormality.
8. Incidental cervical degenerative disc, facet disease.

MR HEAD W/O CONTRAST Study Date of ___ 2:17 ___ 
IMPRESSION: 
1. Acute right MCA territory infarction, as above. 
2. At least two saccular aneurysms arising from the right mid 
and distal M1 measuring at least up to 4 mm. 
3. Scattered bilateral foci of susceptibility artifact 
concerning for 
microhemorrhage in the bifrontal, left occipital, and right 
temporal lobe.  Alternative etiology is small thrombi within 
distal arterial branch vessels. 
4. Coils in the region of left ICA carotid terminus and anterior 
communicating artery consistent with prior aneurysm coiling. 

 
Brief Hospital Course:
# Embolic Stroke: Patient transferred from ___ for ___ 
consistent with an acute infarct of the right basal ganglia, 
insular cortex and temporal lobe without hemorrhage or 
significant midline shift. Her symptoms on arrival to ___ 
included ___ days of left-sided facial droop and a recent fall 
with injury to
her hip, precipitated by lightheadedness. On arrival to ___ 
Stroke Neurology service was consulted and recommended obtaining 
an MRI of the brain, A1C, lipid panel, and strongly recommend 
resuming the patients home Warfarin as it was on hold for 
potential Neurosurgical intervention. Warfarin was restarted on 
___. An MRI Was completed per Neurology recommendations and 
suggested an acute right MCA territory infarction, at least two 
saccular aneurysms arising from the right mid and distal M1 
measuring at least up to 4 mm, scattered bilateral foci of 
susceptibility artifact concerning for microhemorrhage in the 
bifrontal, left occipital, and right temporal lobe.  Alternative 
etiology is small thrombi within distal arterial branch vessels. 
Coils in the region of left ICA carotid terminus and anterior 
communicating 
artery consistent with prior aneurysm coiling. Neurology did not 
feel further intervention was required this admission and 
recommended outpatient follow up with Dr. ___ & Dr. 
___ in ___s starting the patient on 
Atorvastatin 40mg daily.  
 

# Aneurysm: A CTA was performed and demonstrated multiple 
aneurysms. Prior to arriving to ___ the patient was aware of 
the Aneurysms and has been followed by Dr. ___ with previous 
intervention. It was determined that the patient would follow up 
in the ___ clinic as an outpatient to further determine 
the most appropriate plan of care for the findings noted on the 
CTA. The patient was cleared for safe discharge to home by the 
Neurosurgery service and was given follow up instructions and 
appointments with Dr. ___. 
 
Medications on Admission:
metoprolol 200mg daily 
lisinopril 40mg daily 
Coumadin (check dose) 
HCTZ 12.5 daily 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. Lisinopril 20 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Metoprolol Tartrate 100 mg PO BID 
5. Warfarin 5 mg PO DAILY16 
6. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aneurysm 
Right subvortical hypodensity in the MCA territory concerning 
for subacute infarction.  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix) until cleared by the neurosurgeon. You have 
been cleared to resume your home Coumadin.
• You have been discharged on Atorvastatin per the Stroke 
Neurology team. Please continue to take this medication daily. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___